US06821967B2
a. 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid
89 ml (0.11 mol) of a 1.6-Molar n-butyl-lithium solution in hexane are added dropwise to a solution of 21 g (0.1 mol) of 9-fluorenecarboxylic acid in 700 ml of tetrahydrofuran at 0° C. under nitrogen and stirred for one hour. Then, again at 0° C., 13.13 ml (0.11 mol) of dibromobutane are added and the solution is stirred for 30 hours at ambient temperature. After this time 50 ml of water are added and the mixture is stirred for 30 minutes. The solution is concentrated by evaporation, mixed with water and extracted with 250 ml of diethylether. The aqueous phase is acidified with 150 ml of 1N hydrochloric acid and extracted three times with 250 ml of dichloromethane. The combined organic phases are dried over sodium sulphate and the solvent is eliminated.

reactant | n-butyl-lithium | 1.6-Molar | C(CCC)[Li]
reactant | 9-fluorenecarboxylic acid | 0.1 mol, 21 g | C1=CC=CC=2C3=CC=CC=C3C(C12)C(=O)O | C14H10O2
reactant | dibromobutane | 0.11 mol, 13.13 ml | BrC(C)C(C)Br | C4H8Br2
reactant | water | 50 ml | O | H2O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 700 ml | O1CCCC1 | C4H8O
product | 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid | BrCCCCC1(C2=CC=CC=C2C=2C=CC=CC12)C(=O)O | C18H17BrO2
